US08685975B2
To a solution of 2-methoxy-2-(4-(2-methyl-2H-tetrazol-5-yl)phenyl)acetic acid (0.87 g, 3.5 mmol) in anhydr CH2Cl2 (10 ml) was added N,N-diisopropylethylamine (1.36 g, 10.5 mmol) while cooling over an ice bath. bis(2-Methoxyethyl)aminosulfur trifluoride (0.93 g, 4.2 mmol) was added and stirred 15 min. N,O-Dimethylhydroxylamine HCl (0.512 g, 5.25 mmol) was added and the mixture was allowed to stir overnight while warming to room temp. Saturated aqueous NaHCO3 (15 ml) was added and stirred for 5 min. The organic layer was dried over Na2SO4 and evaporated to dryness. Purification by chromatography (60% EtOAc-hexanes) gave N,2-dimethoxy-N-methyl-2-(4-(2-methyl-2H-tetrazol-5-yl)phenyl)acetamide as a clear oil (0.425 g, 42% yield).

reactant | 2-methoxy-2-(4-(2-methyl-2H-tetrazol-5-yl)phenyl)acetic acid | 3.5 mmol, 0.87 g | COC(C(=O)O)C1=CC=C(C=C1)C=1N=NN(N1)C | C11H12N4O3
reactant | N,N-diisopropylethylamine | 10.5 mmol, 1.36 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bis(2-Methoxyethyl)aminosulfur trifluoride | 4.2 mmol, 0.93 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | N,O-Dimethylhydroxylamine HCl | 5.25 mmol, 0.512 g | Cl.CNOC
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N,2-dimethoxy-N-methyl-2-(4-(2-methyl-2H-tetrazol-5-yl)phenyl)acetamide | 0.425 g, 42% yield | CON(C(C(C1=CC=C(C=C1)C=1N=NN(N1)C)OC)=O)C | C13H17N5O3
